US06518257B1
[4′-[1-hydroxy-(1H-imidazol-4-yl)ethyl]-N-methyl[1,1′-biphenyl]-3-carboxamide
To a solution of 3-bromo-N-methylbenzamide (16.0 g) in THF (180 ml) was slowly added dropwise a solution (1.6 M; 103 ml) of n-butyllithium in hexane at −78° C., and the mixture was stirred at −78° C. for 20 min. Trimethoxyborane (50.2 ml) was added dropwise at −78° C. and the mixture was stirred at −78° C. for 30 min and at room temperature for 17 h. 2N Hydrochloric acid (82.0 ml) was added to the reaction mixture, and after stirring for 1 h, the reaction mixture was extracted with ethyl acetate, the organic layer was washed with saturated brine and dried. The solvent was evaporated under reduced pressure to give a crude product (22.5 g) of 3-[(methylamino)carbonyl]phenylboronic acid as a pale-yellow oil. By the reaction in the same manner as in Example 29-(i) using this product (19.2 g), (4-bromophenyl)(1-trityl-1H-imidazol-4-yl)methanone (10.0 g), 2M aqueous sodium carbonate solution (81.2 ml) and tetrakis(triphenylphosphine)palladium(0) (1.17 g), the title compound (6.89 g) was obtained as colorless powder crystals.

reactant | 3-bromo-N-methylbenzamide | 16.0 g | BrC=1C=C(C(=O)NC)C=CC1 | C8H8BrNO
reactant | n-butyllithium | 1.6 M, 103 ml | C(CCC)[Li]
reactant | Trimethoxyborane | 50.2 ml | COB(OC)OC | C3H9BO3
reactant | Hydrochloric acid | 2N, 82.0 ml | Cl | ClH
reactant | (4-bromophenyl)(1-trityl-1H-imidazol-4-yl)methanone | 10.0 g | BrC1=CC=C(C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H21BrN2O
reactant | sodium carbonate | 2M, 81.2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-[1-hydroxy-(1H-imidazol-4-yl)ethyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 6.89 g | OC(CC=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC | C19H19N3O2
